US07714126B2
With a procedure similar to example 50 above, 4-propyl-2-o-tolyl-oxazole-5-carboxylic acid (6-morpholin-4-yl-pyridin-3-yl)-amide was prepared from 4-propyl-2-o-tolyl-oxazole-5-carboxylic acid 2,5-dioxo-pyrrolidin-1-yl ester and 6-morpholin-4-yl-pyridin-3-ylamine. LCMS calcd for C23H26N4O3 (m/e) 406, obsd 407 (M+H).

reactant | 4-propyl-2-o-tolyl-oxazole-5-carboxylic acid 2,5-dioxo-pyrrolidin-1-yl ester | O=C1N(C(CC1)=O)OC(=O)C1=C(N=C(O1)C1=C(C=CC=C1)C)CCC | C18H18N2O5
reactant | 6-morpholin-4-yl-pyridin-3-ylamine | N1(CCOCC1)C1=CC=C(C=N1)N | C9H13N3O
product | 4-propyl-2-o-tolyl-oxazole-5-carboxylic acid (6-morpholin-4-yl-pyridin-3-yl)-amide | N1(CCOCC1)C1=CC=C(C=N1)NC(=O)C1=C(N=C(O1)C1=C(C=CC=C1)C)CCC | C23H26N4O3
